US09421205B2
(b) tert-Butyl 3-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I148)
To a solution of tert-butyl 3-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I147) (0.061 g, 0.10 mmol) in DMF (9 mL) and triethylamine (1 mL) was added a slurry of Pd/C (0.070 g) in DMF (3 mL). The resulting mixture was stirred under an atmosphere of hydrogen at room temperature for 16 hours. The crude reaction mixture was diluted with ethyl acetate then filtered through a pad of Celite. The Celite was washed with ethyl acetate and the filtrates combined. The solvent was removed in vacuo to give a brown oil which was taken up in DMF (9 mL) and triethylamine (1 mL). A slurry of Pd/C (0.070 g) in DMF (3 mL) was added and the resulting mixture was stirred under an atmosphere of hydrogen at room temperature for a further 19 hours. The crude reaction mixture was diluted with ethyl acetate then filtered through a pad of Celite. The Celite was washed with ethyl acetate and the filtrates combined. The solvent was removed in vacuo to give a brown oil which was chromatographed (Biotage Isolera: 25 g silica cartridge, 0-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I148) (0.030 g, 49%) as a yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.50 (s, 1H), 8.46 (dd, J=4.8, 1.7 Hz, 1H), 7.61-7.46 (m, 4H, NH), 7.19 (d, J=8.6 Hz, 2H), 7.12 (dd, J=7.7, 4.8 Hz, 1H), 4.35-3.99 (m), 3.72 (s, 2H), 3.70 (s, 3H), 3.37 (J=7.4 Hz, 2H), 3.28 (t, J=6.9 Hz, 2H), 2.80-2.57 (m, 3H), 2.07-1.95 (m), 1.91-1.69 (m, 2H), 1.69-1.50 (m, 3H), 1.46 (s, 9H). LCMS Method C: rt=6.00 min, m/z 600.2 [M+H]+.

reactant | tert-butyl 3-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.10 mmol, 0.061 g | COC(CC=1C(=NC=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.070 g | [Pd] | Pd
catalyst | Pd/C | 0.070 g | [Pd] | Pd
product | tert-Butyl 3-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(CC=1C(=NC=CC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C31H36F3N5O4
